US08648066B2
To a solution of 1,1-dimethylethyl 7-{4-[(methyloxy)carbonyl]phenyl}-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (1.90 g, 4.96 mmol) in dry methanol (10 mL) was added drop wise 4 N hydrogen chloride in dioxane (10 mL) at room temperature. The reaction mixture was warmed to 55° C. for 60 min, at which time it was cooled to room temperature. The precipitated product was isolated by filtration, washed with diethyl ether, and dried to yield methyl 4-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoate hydrochloride (1.53 g, 97% yield) as a white solid.

reactant | 1,1-dimethylethyl 7-{4-[(methyloxy)carbonyl]phenyl}-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 4.96 mmol, 1.90 g | COC(=O)C1=CC=C(C=C1)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C22H25NO5
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | methyl 4-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoate hydrochloride | 1.53 g, 97% yield | Cl.O1CCNCC2=C1C=CC(=C2)C2=CC=C(C(=O)OC)C=C2 | InChI=1S/C17H17NO3.ClH/c1-20-17(19)13-4-2-12(3-5-13)14-6-7-16-15(10-14)11-18-8-9-21-16;/h2-7,10,18H,8-9,11H2,1H3;1H
